US04898855
Preparation of [3aS-[3(βS*,δR*),3aα,7β,7aβ]]-7-(acetyloxy)-β-chloro-3a,4,5,6,7,7a-hexahydro-δ,3a-dimethyl-1H-indene-3-butanol
A solution of 1.01 g (2.95 mmol) of [3aS-[3(αS*,γR*),3aα,7β,7aβ]-7-(acetyloxy)-α-chloro-3a,4,5,6,7,7a-hexahydro-γ,3a-dimethyl-1H-indene-3-butanoic acid methyl ester in 25 mL of anhydrous tetrahydrofuran was cooled at 0° C. and treated under argon with 1.47 mL (1.47 mmol) of a 1M solution of lithium aluminum hydride in tetrahydrofuran. After stirring for 2 hours at 0° C., additional 0.20 mL of lithium aluminum hydride solution was added and the reaction allowed to proceed for 1 additional hour. It was then quenched by careful addition of 8 mL of a 2N aqueous Rochelle salt solution, then 0.5 mL of 2N hydrochloric acid. After dilution with water, it was extracted with ethyl acetate. The combined extracts were washed with 2N aqueous Rochelle salt solution, then brine, dried and evaporated to dryness to give 0.90 g (93% yield) of the title compound as a colorless, thick oil: [α]23D-30.1° (c 0.6, EtOH); 1H NMR (200 MHz, CDCl3) δ0.93 (s, 3H), 1.07 (d, J=7.2 Hz, 3H), 2.04 (s, 3H), 2.52 (br m, 1H), 3.73 (m, 2H), 4.00 (m, 1H), 4.97 (td, J=12.0, 4.4 Hz, 1H), 5.27 (br s, 1H) ppm.

reactant | 7-(acetyloxy)-α-chloro-3a,4,5,6,7,7a-hexahydro-γ,3a-dimethyl-1H-indene-3-butanoic acid methyl ester | COC(C(CC(C1=CCC2C(CCCC12C)OC(C)=O)C)Cl)=O | C18H27ClO4
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminum hydride | 0.20 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 7-(acetyloxy)-β-chloro-3a,4,5,6,7,7a-hexahydro-δ,3a-dimethyl-1H-indene-3-butanol | 0.90 g, 93% yield | C(C)(=O)OC1CCCC2(C(=CCC12)C(CC(CO)Cl)C)C | C17H27ClO3
